US06458772B1
a) Preparation of 1-O-(N-CBz-L-valyl)glycerol
CBz-L-valine (4.35 g, 17.3 mmol) was added to a fivefold excess of glycerol (8 ml, 86.9 mmol) together with dicyclohexylcarbodiimide (4.29 g 20.8 mmol) and 4-dimethylaminopyridine (0.212 g) at room temperature. After stirring overnight the suspension was filtered and DMF removed in vacuo from the filtrate. The residue was redissolved in CH2Cl2, washed successively with saturated NaHCO3, brine, and water and then dried. The crude material was chromatographed on silica gel with 4/1 EtOAc-hexane as eluent to yield 2.465 g. Rf (4/1 EtOAc-hexane) 0.17, (20/1 CH2C2-methanol) 0.12.

reactant | CBz-L-valine | 17.3 mmol, 4.35 g | C(=O)(OCC1=CC=CC=C1)N[C@@H](C(C)C)C(=O)O | C13H17NO4
reactant | glycerol | 86.9 mmol, 8 ml | OCC(O)CO | C3H8O3
reactant | dicyclohexylcarbodiimide | 20.8 mmol, 4.29 g | C1(CCCCC1)N=C=NC1CCCCC1 | C13H22N2
catalyst | 4-dimethylaminopyridine | 0.212 g | CN(C1=CC=NC=C1)C | C7H10N2
solvent | EtOAc hexane | CCOC(=O)C.CCCCCC
product | 1-O-(N-CBz-L-valyl)glycerol | C(=O)(OCC1=CC=CC=C1)N[C@@H](C(C)C)C(=O)OCC(O)CO | C16H23NO6
